US07358248B2
(2R)-3-(4′-Indol-1-ylbiphen-4-ylmethylsulfinyl)-2-phenylacetylamino-propionic acid
Sodium perborate tetrahydrate (97 mg, 0.63 mmol) was added as a solid to a stirred solution of (2R)-3-(4′-indol-1-ylbiphen-4-ylmethylsulfanyl)-2-phenylacetylamino-propionic acid (300 mg, 0.58 mmol) in acetic acid (10 mL) at 40° C. This solution was stirred at 40° C. for 2 hours (HPLC control) and then diluted with ethyl acetate (50 mL), washed with water, brine (2×), dried over anhydrous MgSO4, filtered and concentrated in vacuo. Purification of the product by flash column chromatography, using 15% methanol in dichloromethane as eluent, afforded the title compound has an off-white solid (261 mg g, 84%) as a 1:1 mixture of diasereomers; 1H NMR (DMSO-d6, 300 MHz) δ 12.98 (1H, s, COOH), 8.75 and 8.80 (both 0.5H, d, J=8 Hz, NH), 8.40 (1H, d, J=8 Hz, NH), 7.84 (2H, m, Ar—H), 7.60-7.78 (7H, m, Ar—H), 7.44 and 7.39 (both 1H, d, J=8 Hz, Ar—H), 7.12-7.28 (7H, m, Ar—H), 6.72 (1H, d, J=3 Hz, Ar—H), 4.68 and 4.48 (both 0.5H, m, CHN), 4.16 (2H, m, PhCH2CO) 3.52 and 3.32 (both 1H, s, PhCH2S), 3.09 (1H, m, CHHCHN), 2.96 (1H, m, CHHCHN); ESI-LCMS e/z calcd for C32H28N2O4S 536.649, found 537 (M+H)+.

reactant | Sodium perborate tetrahydrate | 0.63 mmol, 97 mg | B1(OO1)[O-].O.O.O.O.[Na+]
reactant | (2R)-3-(4′-indol-1-ylbiphen-4-ylmethylsulfanyl)-2-phenylacetylamino-propionic acid | 0.58 mmol, 300 mg | N1(C=CC2=CC=CC=C12)C1=CC=C(C2=CC=C(C=C2)CSC[C@@H](C(=O)O)NC(CC2=CC=CC=C2)=O)C=C1 | C32H28N2O3S
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | (2R)-3-(4′-Indol-1-ylbiphen-4-ylmethylsulfinyl)-2-phenylacetylamino-propionic acid | N1(C=CC2=CC=CC=C12)C1=CC=C(C2=CC=C(C=C2)CS(=O)C[C@@H](C(=O)O)NC(CC2=CC=CC=C2)=O)C=C1 | C32H28N2O4S
